US04013659
(i) A solution of 2-(4-imidazolylmethylthio)ethylamine (6.0 g) and benzoyl isothiocyanate (6.0 g) in chloroform (150 ml) was heated under reflux for one hour. Concentration followed by recrystallisation from ethyl acetate-isopropyl acetate afforded N-benzoyl-N'-(2-(4-imidazolylmethylthio)-ethyl)thiourea (7.5 g). An analytically pure sample (from aqueous isopropyl alcohol) had m.p. 126°-128°.

reactant | 2-(4-imidazolylmethylthio)ethylamine | 6.0 g | N1C=NC(=C1)CSCCN | C6H11N3S
reactant | benzoyl isothiocyanate | 6.0 g | C(C1=CC=CC=C1)(=O)N=C=S | C8H5NOS
solvent | chloroform | 150 ml | C(Cl)(Cl)Cl | CHCl3
product | N-benzoyl-N'-(2-(4-imidazolylmethylthio)-ethyl)thiourea | 7.5 g | C(C1=CC=CC=C1)(=O)NC(=S)NCCSCC=1N=CNC1 | C14H16N4OS2
